US06685962B2
Glycerine, ethyl alcohol and methylene chloride were purchased from Frutarom; enzymatically hydrolyzed gelatin with average molecular weight of 10,000-12,000 was purchased from Croda; hexanesulfonic acid was purchased from BDH; methylmethacrylate-methacrylic acid copolymers were provided from Rhom Pharma; 1-PLA with Mw of 427,000 and Mn of 224,500 was purchased from Boehringer Ingelheim; triethyl citrate was provided by Morflex; ethylcellulose was provided by Teva; polyvinyl pyrrolidone was provided by Taro; glutaraldehyde 25% and acetonitrile were purchased from Merck; chloroform, orthophosphoric acid and trichloroacetic acid were purchased from Baker. All solvents were of analytical grade, except acetonitrile which was HPLC grade.

reactant | Glycerine | OCC(O)CO | C3H8O3
reactant | ethyl alcohol | C(C)O | C2H6O
reactant | hexanesulfonic acid | C(CCCCC)S(=O)(=O)O | C6H14O3S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methylmethacrylate methacrylic acid | COC(C(=C)C)=O.C(C(=C)C)(=O)O | InChI=1S/C5H8O2.C4H6O2/c1-4(2)5(6)7-3;1-3(2)4(5)6/h1H2,2-3H3;1H2,2H3,(H,5,6)
